US04079181
To a solution of p-nitrobenzyl α-[3-phenoxymethyl-7-oxo-4-thia-2,6-diazabicyclo[3,2,0]hept-2-en-6-yl]-α-(1-methanesulfonyl-ethylidene)acetate (298 mg) in benzene (3 ml) is added morpholine (0.095 ml) at 7 to 10° C. After 130 minutes, the reaction mixture is filtered to give filtrate, which is poured into iced water, and is extracted with methylene chloride. The extract solution is washed with water, dried over magnesium sulfate, and evaporated to give p-nitrobenzyl α-[3-phenoxymethyl-7-oxo-4-thia-2,6-diazabicyclo[3,2,0]-hept-2-en-6-yl]-α-(1-morpholinoethylidene)-acetate (284 mg). Foam. Yield: 97.1%.

reactant | p-nitrobenzyl α-[3-phenoxymethyl-7-oxo-4-thia-2,6-diazabicyclo[3,2,0]hept-2-en-6-yl]-α-(1-methanesulfonyl-ethylidene)acetate | 298 mg | O(C1=CC=CC=C1)CC1=NC2C(N(C2S1)C(C(=O)OCC1=CC=C(C=C1)[N+](=O)[O-])=C(C)S(=O)(=O)C)=O | C23H21N3O8S2
reactant | morpholine | 0.095 ml | N1CCOCC1 | C4H9NO
reactant | water | O | H2O
solvent | benzene | 3 ml | C1=CC=CC=C1 | C6H6
product | p-nitrobenzyl α-[3-phenoxymethyl-7-oxo-4-thia-2,6-diazabicyclo[3,2,0]-hept-2-en-6-yl]-α-(1-morpholinoethylidene)-acetate | 284 mg, Yield: 97.1% | O(C1=CC=CC=C1)CC1=NC2C(N(C2S1)C(C(=O)OCC1=CC=C(C=C1)[N+](=O)[O-])=C(C)N1CCOCC1)=O | C26H26N4O7S
